US08937092B2
N-(4-(3-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)ureido)benzyl)methanesulfonamide
To a solution of phenyl 4-(methylsulfonamidomethyl)phenylcarbamate (59 mg, 0.18 mmol) acetonitrile (3 mL) was added 4-dimethylaminopyridine (23 mg, 0.18 mmol) and (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine (49 mg, 0.18 mmol) at room temperature. The reaction mixture was heated to 50° C. for 16 h. TLC showed complete consumption of starting material. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic part was washed with water and brine. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The crude was purified by column chromatography to N-(4-(3-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)ureido)benzyl)methanesulfonamide (example 2) (57 mg, 63%).

reactant | phenyl 4-(methylsulfonamidomethyl)phenylcarbamate | 0.18 mmol, 3 mL, 59 mg | CS(=O)(=O)NCC1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C15H16N2O4S
reactant | (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine | 0.18 mmol, 49 mg | C1(=CC(=CC=C1)C1=NC(=CC=C1CN)C(F)(F)F)C | C14H13F3N2
catalyst | 4-dimethylaminopyridine | 0.18 mmol, 23 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(4-(3-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)ureido)benzyl)methanesulfonamide | C1(=CC(=CC=C1)C1=NC(=CC=C1CNC(NC1=CC=C(CNS(=O)(=O)C)C=C1)=O)C(F)(F)F)C | C23H23F3N4O3S
